US05563160
N-Cyano-N'-(2-phenylaminoethyl)-N"-4-pyridylguanidine
N-Cyano-N'-4-pyridylthiourea (1.80 g) was suspended in dimethylformamide (5 ml). While stirring in an ice bath N-phenylethylenediamine (1.4 ml) and N,N'-dicyclohexylcarbodiimide (2.50 g) were added, resulting in a clear solution. The mixture was left at room temperature for 3 days, when the suspension formed was evaporated extensively under high vacuum. The residue was triturated repeatedly with ether (15 ml portions), and the residual solid was extracted with 1N hydrochloric acid (50 ml). After filtration, the crude product was precipitated from the filtrate by addition of 9N sodium hydroxide and taken up into ethyl acetate (3×75 ml).

reactant | N-Cyano-N'-4-pyridylthiourea | 1.80 g | C(#N)NC(=S)NC1=CC=NC=C1 | C7H6N4S
reactant | N-phenylethylenediamine | 1.4 ml | C1(=CC=CC=C1)NCCN | C8H12N2
reactant | N,N'-dicyclohexylcarbodiimide | 2.50 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | N-Cyano-N'-(2-phenylaminoethyl)-N"-4-pyridylguanidine | C(#N)NC(=NC1=CC=NC=C1)NCCNC1=CC=CC=C1 | C15H16N6
